US03978086
To a flask equipped with a stirrer, condenser, dropping funnel and thermometer are charged 31.3 g. of 2,3-diphenyl-5,6-methylenedioxy indole, 600 ml. of acetic acid and 0.30 g. of ammonium molybdate dissolved in 30 ml. of water. The stirred mixture is heated to 60°-65°C. and then treated dropwise (about 15 minutes) with 30 ml. of 40% hydrogen peroxide. The mixture is maintained at 65° for about 2 hours and then treated with 150 ml. water. The resultant solid is filtered off and recrystallized from chloroform to give 2-benzoylamino-4,5-methylenedioxybenzophenone, m.p. 195°-197°C.

reactant | 2,3-diphenyl-5,6-methylenedioxy indole | C1(=CC=CC=C1)C=1NC2=CC3=C(C=C2C1C1=CC=CC=C1)OCO3 | C21H15NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
catalyst | ammonium molybdate | [NH4+].[NH4+].[O-][Mo](=O)(=O)[O-]
product | 2-benzoylamino-4,5-methylenedioxybenzophenone | C(C1=CC=CC=C1)(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C2C(=C1)OCO2 | C21H15NO4
